US07034098B2
1.960 g (9.2 mmol) 3,5-dinitrobenzoic acid was suspended in 10 ml N,N-dimethylformamide. 1.407 g (9.2 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene(1,5-5) (DBU) were added dropwise over a period of 10 minutes, and 0.708 g (1.9 mmol) tetrabutylammonium iodide were added. A solution of 2.3 g (8.2 mmol) 6-chlorohexyl 3,5-dihydroxybenzoate and 15 ml N,N-dimethylformamide were added and the resulting mixture was then heated to 84° C. for 22 hours. The reaction mixture was cooled and then partitioned between ethyl acetate and water. The organic phase was washed repeatedly with water, dried over sodium sulfate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 110 g silica gel using first cyclohexane:ethyl acetate (7:3) then (3:2) as eluant yielded 2.3 g (56%) of 6-[(3,5-dinitrobenzoyl)oxy]hexyl 3,5-dihydroxybenzoate as yellow crystals.

reactant | 3,5-dinitrobenzoic acid | 9.2 mmol, 1.960 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | 6-chlorohexyl 3,5-dihydroxybenzoate | 8.2 mmol, 2.3 g | OC=1C=C(C(=O)OCCCCCCCl)C=C(C1)O | C13H17ClO4
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 1.9 mmol, 0.708 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-[(3,5-dinitrobenzoyl)oxy]hexyl 3,5-dihydroxybenzoate | 2.3 g, 56% | OC=1C=C(C(=O)OCCCCCCOC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)C=C(C1)O | C20H20N2O10
